US07592357B2
Step 1. Methyl 3-(aminosulfonyl)-4-chlorobenzoate
3-(Aminosulfonyl)-4-chlorobenzoic acid (943 mg, 4.0 mmol) was heated at 70° C. in CH3OH (10 mL) with 3 drops of concentrated sulfuric acid for 34 hours. The reaction mixture was diluted with EtOAc (20 mL), washed with water, brine, and dried (Na2SO4). The solvent was evaporated to afford the product (950 mg, 95%) as a white solid. MS (ES+) m/z 250 [M+H]+.

reactant | 3-(Aminosulfonyl)-4-chlorobenzoic acid | 4.0 mmol, 943 mg | NS(=O)(=O)C=1C=C(C(=O)O)C=CC1Cl | C7H6ClNO4S
reactant | CH3OH | 10 mL | CO | CH4O
catalyst | sulfuric acid | 3 drops | S(O)(O)(=O)=O | H2O4S
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | Methyl 3-(aminosulfonyl)-4-chlorobenzoate | 950 mg, 95% | NS(=O)(=O)C=1C=C(C(=O)OC)C=CC1Cl | C8H8ClNO4S
